US08877782B2
N-Cyclopropylmethyl-6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 90, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (93 mg, 0.3 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted to the title compound (69 mg, 63%) which was obtained as an off white solid. MS: m/e=365.1 [M+H]′.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.3 mmol, 93 mg | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
product | N-Cyclopropylmethyl-6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide | 69 mg, 63% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=NC=C1)=O | C20H20N4O3
